US07470679B2
(S)-dimethyl 2-((3,7-dichloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate
(S)-Diethyl 2-((4-(acetoxymethyl)-3,7-dichloro-1H-indazol-5-yl)methyl)succinate (1.30 g, 2.92 mmol) was dissolved in methanol (45 mL). 6-10% Magnesium methoxide in methanol (8.4 mL, 6.35 mmol) was added to the mixture. Reaction stirred at room temperature for 16 hours. Reaction was quenched with 14 mL 1N hydrochloric acid. Methanol was removed from the mixture by roto-vap. Residue was treated with aqueous sodium bicarbonate. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. The combined organic phases were washed with water and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as dark amber oil in 91% yield. MS (M−H)−=373.0, 375.0.

reactant | (S)-Diethyl 2-((4-(acetoxymethyl)-3,7-dichloro-1H-indazol-5-yl)methyl)succinate | 2.92 mmol, 1.30 g | C(C)(=O)OCC1=C2C(=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Cl)Cl | C19H22Cl2N2O6
reactant | Magnesium methoxide | C[O-].[Mg+2].C[O-]
solvent | methanol | 45 mL | CO | CH4O
solvent | methanol | 6.35 mmol, 8.4 mL | CO | CH4O
product | (S)-dimethyl 2-((3,7-dichloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 91% yield | ClC1=NNC2=C(C=C(C(=C12)CO)C[C@H](C(=O)OC)CC(=O)OC)Cl | C15H16Cl2N2O5
